US09029374B2
3-fluoro-2-methoxyaniline (115 mg, 0.82 mmol) was reacted with 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide (100 mg, 0.20 mmol) using an analogous procedure to the one described in Example 3.03 to give 8-(1-(3-fluoro-2-methoxyphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide (57 mg, 60%) as a white solid. Mass Spectrum: M+H+ 470. NMR Spectrum (DMSOd6): 1.59 (d, 3H), 2.70 (bs, 3H), 2.93 (bs, 3H), 3.50-3.63 (m, 4H), 3.71-3.79 (m, 4H), 3.83 (s, 3H), 5.02-5.11 (m, 1H), 5.60 (s, 1H), 5.95 (d, 1H), 6.11 (d, 1H), 6.39 (dd, 1H), 6.72 (ddd, 1H), 7.59 (d, 1H), 7.78 (d, 1H).

reactant | 3-fluoro-2-methoxyaniline | 0.82 mmol, 115 mg | FC=1C(=C(N)C=CC1)OC | C7H8FNO
reactant | 8-(1-bromoethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide hydrobromide | 0.20 mmol, 100 mg | Br.BrC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C
product | 8-(1-(3-fluoro-2-methoxyphenylamino)ethyl)-N,N-dimethyl-2-morpholino-4-oxo-4H-chromene-6-carboxamide | 57 mg, 60% | FC=1C(=C(C=CC1)NC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N(C)C)OC | C25H28FN3O5
